US08247436B2
Step 2: 3-Amino-5,6-bis-trifluoromethyl-pyridine-2-carboxylic acid (3,3,3-trifluoro-2-hydroxy-2-methyl-propyl)-amide
To a stirred solution of 3-(2,5-dimethyl-pyrrol-1-yl)-5,6-bis-trifluoromethyl-pyridine-2-carboxylic acid (3,3,3-trifluoro-2-hydroxy-2-methyl-propyl)-amide (985 mg, 2.064 mmol) in 2:1 EtOH/H2O (7.5 ml) was added hydroxylamine hydrochloride (1.43 g, 20.64 mmol) followed by NEt3 (575 ml, 4.13 mmol). The reaction mixture was heated to reflux (˜98° C.) for 11.5 hours and then allowed to cool to RT. The solvent was removed in vacuo and the resulting residue was partitioned between EtOAc (25 ml) and water (25 ml). The aqueous layer was separated and extracted with EtOAc (2×25 ml) and the combined organic extracts were washed with brine (50 ml), dried (MgSO4) and concentrated in vacuo. The crude material was purified by chromatography on silica eluting with 0-25% EtOAc in iso-hexane to afford the title product as a pale yellow solid; LC-MS: Rt 1.24 min; MS m/z 400.0 [M+H]+; Method 2minLC_v003.

reactant | 3-(2,5-dimethyl-pyrrol-1-yl)-5,6-bis-trifluoromethyl-pyridine-2-carboxylic acid (3,3,3-trifluoro-2-hydroxy-2-methyl-propyl)-amide | 2.064 mmol, 985 mg | FC(C(CNC(=O)C1=NC(=C(C=C1N1C(=CC=C1C)C)C(F)(F)F)C(F)(F)F)(C)O)(F)F | C18H16F9N3O2
reactant | hydroxylamine hydrochloride | 20.64 mmol, 1.43 g | Cl.NO
reactant | NEt3 | 4.13 mmol, 575 ml | CCN(CC)CC | C6H15N
solvent | EtOH H2O | 7.5 ml | CCO.O
product | 3-Amino-5,6-bis-trifluoromethyl-pyridine-2-carboxylic acid (3,3,3-trifluoro-2-hydroxy-2-methyl-propyl)-amide | FC(C(CNC(=O)C1=NC(=C(C=C1N)C(F)(F)F)C(F)(F)F)(C)O)(F)F | C12H10F9N3O2
